US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl )4-chloroindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-4-chloroindoline-2(S)-carboxylic acid (0.2 g, 0.52 mmol) and 2,2,2-trifluoroethylamine hydrochloride (0.142 g, 1.0 mmol) were dissolved in dried dichloromethane (10 ml) under nitrogen at 0° C., and triethylamine (0.44 ml, 3 mmol) was added followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.265 g, 1.0 mmol). The temperature was allowed to rise to room temperature and the mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was concentrated under vacuum to give a brown solid which was columned on silica gel using 95:5 dichloromethane: diethyl ether as eluent to provide a white solid as the desired product.

reactant | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-4-chloroindoline-2(S)-carboxylic acid | 0.52 mmol, 0.2 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=C(C=CC=C12)Cl)C(=O)O)CC | C18H23ClN2O5
reactant | 2,2,2-trifluoroethylamine hydrochloride | 1.0 mmol, 0.142 g | Cl.FC(CN)(F)F
reactant | triethylamine | 3 mmol, 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1.0 mmol, 0.265 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl )4-chloroindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | FC(CNC(=O)C1N(C2=CC=CC(=C2C1)Cl)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C20H25ClF3N3O4
